US05565479
8-Cyano-2-(4-imidazolylmethyl)-4,5-dihydronaphtho[1,2-d]thiazole
Starting compounds: 2-bromo-7-cyano-1-tetralone, 4-imidazolylthioacetamide hydrochloride

reactant | 2-bromo-7-cyano-1-tetralone | BrC1C(C2=CC(=CC=C2CC1)C#N)=O | C11H8BrNO
reactant | 4-imidazolylthioacetamide hydrochloride | Cl.N1C=NC(=C1)CC(=S)N
product | 8-Cyano-2-(4-imidazolylmethyl)-4,5-dihydronaphtho[1,2-d]thiazole | C(#N)C1=CC=C2CCC3=C(N=C(S3)CC=3N=CNC3)C2=C1 | C16H12N4S
